US07501421B2
Preparation of 2-(4-Ethylpiperazin-1-yl)-4-(1-naphthylsulfonyl)benzoxazole Dihydrochloride
A mixture of 4-(1-naphthylsulfonyl)-2-piperazin-1-ylbenzoxazole (0.070 g, 0.18 mmol), acetaldehyde (0.016 g, 0.36 mmol), NaBH(OAc)3 (0.075 g, 0.36 mmol), and acetic acid (0.021 g, 0.36 mmol) in 1,2-dichloroethane was stirred at room temperature overnight, diluted with 20% MeOH in CH2Cl2 (with 0.5% NH4OH) and filtered through a pad of silica gel. The filtrate was concentrated and purified by Gilson reverse phase HPLC. The purified material was treated with a solution of HCl in ether, stirred at room temperature for 5 minutes and concentrated to dryness to five the title compound (17 mg, 19%), characterized by NMR and mass spectral analyses. MS (ES+) m/e 422 (MH+).

reactant | 4-(1-naphthylsulfonyl)-2-piperazin-1-ylbenzoxazole | 0.18 mmol, 0.070 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=CC=CC2=C1N=C(O2)N2CCNCC2 | C21H19N3O3S
reactant | acetaldehyde | 0.36 mmol, 0.016 g | C(C)=O | C2H4O
reactant | NaBH(OAc)3 | 0.36 mmol, 0.075 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 0.36 mmol, 0.021 g | C(C)(=O)O | C2H4O2
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(4-Ethylpiperazin-1-yl)-4-(1-naphthylsulfonyl)benzoxazole Dihydrochloride | Cl.Cl.C(C)N1CCN(CC1)C=1OC2=C(N1)C(=CC=C2)S(=O)(=O)C2=CC=CC1=CC=CC=C21 | InChI=1S/C23H23N3O3S.2ClH/c1-2-25-13-15-26(16-14-25)23-24-22-19(29-23)10-6-12-21(22)30(27,28)20-11-5-8-17-7-3-4-9-18(17)20;;/h3-12H,2,13-16H2,1H3;2*1H
